US04128530
A 4-(hexylthio)phenol was prepared as follows. In a one liter flask equipped with thermometer, stirring rod and water condenser was added 126 grams of 4-mercaptophenol and 7 grams of toluenesulfonic acid. The flask contents were heated to 60° C. and 93 grams of 2-methyl-1-pentene were added over a fifty minute period. The flask contents were neutralized with 9 grams of Na2CO3 in aqueous solution and decanted. The reaction product was stripped to a pot temperature of 80° C. at 20 millimeters of mercury. It weighed 216 grams.

reactant | 4-mercaptophenol | 126 grams | SC1=CC=C(C=C1)O | C6H6OS
reactant | toluenesulfonic acid | 7 grams | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-methyl-1-pentene | 93 grams | CC(=C)CCC | C6H12
reactant | Na2CO3 | 9 grams | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 4-(hexylthio)phenol | C(CCCCC)SC1=CC=C(C=C1)O | C12H18OS
